US07737141B2
Synthesis of [(2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidin-2-yl]methanol
LAH (483 mg) was added to a THF solution (50 mL) of (2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester (2.91 g) over 1 hr at −15° C. The resulting reaction solution was stirred at −15° C. for 19 hr. To the reaction solution, water (0.5 mL), a 5 N sodium hydroxide aqueous solution (0.5 mL), and water (1.5 mL) were added in this order. The resulting mixture was stirred at room temperature for 30 min and then filtered through Celite. The filtrate was concentrated under reduced pressure to give 2.4 g of the title compound. The physical property values of this compound were as follows:

reactant | LAH | 483 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | (2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 2.91 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC(=C(C(=C1)F)F)F | C13H14F3NO2
reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
solvent | water | 1.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | [(2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidin-2-yl]methanol | 2.4 g | FC=1C=C(C=C(C1F)F)[C@@H]1CC[C@@H](N1)CO | C11H12F3NO
